US09216964B2
A mixture containing 5-amino-2-methyl-N-phenylnicotinamide (46 mg, 0.2 mmol), 5-bromo-2-(methylsulfonyl)-1,2,3,4-tetrahydroisoquinoline (58 mg, 0.2 mmol), Pd2(dba)3 (18 mg, 0.02 mmol), BINAP (25 mg, 0.04 mmol), K3PO4 (169 mg, 0.8 mmol) in dioxane (1 mL) is stirred at 110° C. for 15 hours. The reaction mixture is filtered through a celite pad to remove any solids. The filtrate is evaporated and the crude product is purified by HPLC to give 2-methyl-5-(2-(methylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-5-ylamino)-N-phenylnicotinamide as a white solid. MS m/z 437.2 (M+1); 1H NMR 400 MHz (DMSO-d6) δ 10.58 (s, 1H), 8.20 (m, 2H), 7.71 (d, 2H, J=7.6 Hz), 7.63 (d, 1H), J=2.4 Hz), 7.38 (t, 2H, J=8.4 Hz), 7.23 (m, 2H), 7.15 (t, 1H, J=7.6 Hz), 7.00 (m, 1H), 4.39 (s, 2H), 3.47 (t, 2H, J=6.4 Hz), 2.97 (s, 3H), 2.82 (t, 2H, J=6.4 Hz), 2.54 (s, 3H).

reactant | 5-amino-2-methyl-N-phenylnicotinamide | 0.2 mmol, 46 mg | NC=1C=NC(=C(C(=O)NC2=CC=CC=C2)C1)C | C13H13N3O
reactant | 5-bromo-2-(methylsulfonyl)-1,2,3,4-tetrahydroisoquinoline | 0.2 mmol, 58 mg | BrC1=C2CCN(CC2=CC=C1)S(=O)(=O)C | C10H12BrNO2S
reactant | BINAP | 0.04 mmol, 25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K3PO4 | 0.8 mmol, 169 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-methyl-5-(2-(methylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-5-ylamino)-N-phenylnicotinamide | CC1=C(C(=O)NC2=CC=CC=C2)C=C(C=N1)NC1=C2CCN(CC2=CC=C1)S(=O)(=O)C | C23H24N4O3S
